US07320986B2
1-[chloro(4-methoxyphenyl)methyl]-4-methoxybenzene
Bis(4-methoxyphenyl)methanol (30 g) was treated with thionyl chloride (40 mL). The resulting mixture was refluxed for 2.5 hours and concentrated to give the desired product.

reactant | Bis(4-methoxyphenyl)methanol | 30 g | COC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OC | C15H16O3
reactant | thionyl chloride | 40 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-[chloro(4-methoxyphenyl)methyl]-4-methoxybenzene | ClC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C15H15ClO2
